US08138215B2
A balloon of hydrogen was attached to a mixture of (2S,3S)-benzyl 4-(tert -butyldimethylsilyloxy)-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate (836 mg, 1.447 mmol) and 10% Pd/C (213 mg) in EtOAc (16 mL) and the mixture was stirred at room temperature for ˜21 hr, where the balloon was recharged with H2 as necessary. The reaction mixture was diluted with CH2Cl2 and filtered through a pad of diatomaceous earth (CELITE®-545), and the pad was washed with EtOAc (200 mL), EtOAc/MeOH (1:1 mixture, 200 mL) and MeOH (750 mL). The combined organic phase was concentrated, and a silica gel mesh was prepared from the resulting crude material and submitted to a flash chromatography (8:2:1 mixture of EtOAc/1-PrOH/H2O) to afford (2S,3S)-2-amino-4-(tert-butyldimethylsilyloxy)-3-methylbutanoic acid as a white fluffy solid (325 mg). (2S,3R)-benzyl 4-(tert-butyldimethylsilyloxy)-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate was similarly elaborated to (2S,3R)-2-amino-4-(tert-butyldimethylsilyloxy)-3-methylbutanoic acid. (2S,3S)-amino acid isomer: 1H NMR (Methanol-d4, δ=3.29 ppm, 400 MHz), 3.76 (dd, J=10.5, 5.2, 1H), 3.73 (d, J=3.0, 1H), 3.67 (dd, J=10.5, 7.0, 1H), 2.37 (m, 1H), 0.97 (d, J=7.0, 3H), 0.92 (s, 9H), 0.10 (s, 6H). LC/MS: Anal. Calcd. for [M+H]+ C11H26NO3Si: 248.17; found 248.44. (2S,3R)-amino acid isomer: 1H NMR (Methanol-d4, δ 3.29 ppm, 400 MHz), 3.76-3.75 (m, 2H), 3.60 (d, J=4.1, 1H), 2.16 (m, 1H), 1.06 (d, J=7.3, 3H), 0.91 (s, 9H), 0.09 (s, 6H). Anal. Calcd. for [M+H]+ C11H26NO3Si: 248.17; found 248.44.

reactant | hydrogen | [H][H] | H2
reactant | (2S,3S)-benzyl 4-(tert -butyldimethylsilyloxy)-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate | 1.447 mmol, 836 mg | [Si](C)(C)(C(C)(C)C)OC[C@H]([C@@H](C(=O)OCC1=CC=CC=C1)NC1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1)C | C37H43NO3Si
solvent | EtOAc | 16 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 213 mg | [Pd] | Pd
product | (2S,3S)-2-amino-4-(tert-butyldimethylsilyloxy)-3-methylbutanoic acid | N[C@H](C(=O)O)[C@@H](CO[Si](C)(C)C(C)(C)C)C | C11H25NO3Si
